US05646173
A solution of 8.0 g of 6-hydroxy-1-indanone, 6.3 ml of cyclopentyl bromide, 16.4 g of potassium carbonate and 10 ml of N,N-dimethylformamide in 100 ml of acetone was heated to 75° for 35 hours. After cooling, the solution was poured into 150 ml of water and extracted twice with 200 ml of ethyl acetate each time. The combined organic phases were washed once with 100 ml of water and once with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and the solution was concentrated in a vacuum. The crude product was purified by column chromatography on silica gel (hexane/ethyl acetate 3:1). 9.45 g (81%) of 6-cyclopentoxy-1-indanone were obtained as an orange oil which was used directly in the next reaction.

reactant | 6-hydroxy-1-indanone | 8.0 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | cyclopentyl bromide | 6.3 ml | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 16.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | 6-cyclopentoxy-1-indanone | 9.45 g, 81% | C1(CCCC1)OC1=CC=C2CCC(C2=C1)=O | C14H16O2
